US05892088
Preparation of 4-N-Morphoryl carbamoyl-2-phenyl propanol
Except for using 3-N-morphoryl carbamoyl-2-phenyl propanol acetate, instead of 3-carbamoyl-2-phenyl propanol acetate, as the starting material, the same procedure with that of Example 8 was repeated.

reactant | carbamoyl-2-phenyl propanol acetate | C(C)(=O)OC(C(C)C1=CC=CC=C1)C(N)=O | C12H15NO3
reactant | 3-carbamoyl-2-phenyl propanol acetate | C(C)(=O)OCC(CC(N)=O)C1=CC=CC=C1 | C12H15NO3
product | carbamoyl-2-phenyl propanol | C(N)(=O)C(C(C)C1=CC=CC=C1)O | C10H13NO2
